US03931174
2-Methylsulfinylmethylquinoxaline 1,4-Dioxide
In like manner, 2-methyl-3-methylthiomethylquinoxaline 1,4-dioxide is converted to 2-methyl-3-methylsulfinylmethylquinoxaline 1,4-dioxide, m.p. 135°-136°C., in 13.1 percent yield.

reactant | 2-methyl-3-methylthiomethylquinoxaline 1,4-dioxide | CC1=[N+](C2=CC=CC=C2[N+](=C1CSC)[O-])[O-] | C11H12N2O2S
reactant | 2-methyl-3-methylsulfinylmethylquinoxaline 1,4-dioxide | CC1=[N+](C2=CC=CC=C2[N+](=C1CS(=O)C)[O-])[O-] | C11H12N2O3S
product | 2-Methylsulfinylmethylquinoxaline 1,4-Dioxide | CS(=O)CC1=[N+](C2=CC=CC=C2[N+](=C1)[O-])[O-] | C10H10N2O3S
